US07276606B2
(5-Acetyl-5,6-dihydro-phenanthridin-6-yl)-acetic acid methyl ester was prepared from phenanthridine, acetyl chloride, and 1-(tert-butyldimethylsilyloxy)-1-methoxyethene according to GP 2. Yield, 43%. 1H-NMR (DMSO-d6): δ=2.12 (s, br., 3H), 2.28-2.43 (m, 2H), 3.54 (s, 3H), 6.22 (s, br., 1H), 7.28-7.56 (m, 6H), 7.90-7.98 (m, 2H); (+)-ESI-MS: m/z=296 [M+H]+, 254, 222, 180.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 1-(tert-butyldimethylsilyloxy)-1-methoxyethene | [Si](C)(C)(C(C)(C)C)OC(=C)OC | C9H20O2Si
product | (5-Acetyl-5,6-dihydro-phenanthridin-6-yl)-acetic acid methyl ester | COC(CC1N(C=2C=CC=CC2C2=CC=CC=C12)C(C)=O)=O | C18H17NO3
